US09145414B2
In accordance with Example 68 (Step 2), 4-nitro-1H-indazole was used instead of 4-nitro-1H-indole, and iodoethane was used instead of (S)-tetrahydrofuran-3-yl methanesulfonate to obtain 1-ethyl-1H-indazol-4-amine.

reactant | 4-nitro-1H-indazole | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | iodoethane | ICC | C2H5I
product | 1-ethyl-1H-indazol-4-amine | C(C)N1N=CC=2C(=CC=CC12)N | C9H11N3
